US09126969B2
1.4 g of 4-(5-amino-2-fluoro-4-nitrophenyl)piperazine-1-carboxylic acid tert-butyl ester in solution in 20 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 139 mg of palladium-on-charcoal at 22° C. for 16 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 1.4 g of 4-(4,5-diamino-2-fluorophenyl)piperazine-1-carboxylic acid tert-butyl ester are isolated in the form of a brown resin. 1H NMR (300 MHz, DMSO-d6, δ in ppm): 1.41 (s, 9H); 2.73 (m, 4H); 3.40 (m, 4H); 4.23 (broad s, 2H); 4.37 (broad s, 2H); 6.27 (d, J=8.5 Hz, 1H); 6.31 (d, J=13.5 Hz, 1H). EI mass spectrum: m/z=310 M+. (base peak), m/z=254 (M-C4H)+, m/z=57 C4H+.

reactant | 4-(5-amino-2-fluoro-4-nitrophenyl)piperazine-1-carboxylic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C(=C1)N)[N+](=O)[O-])F | C15H21FN4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium-on-charcoal | 139 mg | [Pd] | Pd
product | 4-(4,5-diamino-2-fluorophenyl)piperazine-1-carboxylic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C(=C1)N)N)F | C15H23FN4O2
